US07932262B2
Step 6. Preparation of 2-amino-3-methoxy-6-(trifluoromethyl)benzoic acid
A solution of methyl-2-(acetylacetamido)-3-methoxy-6-(trifluoromethyl)benzoate in 2N NaOH was heated to reflux for 4-5 h. The reaction mixture was cooled and pH was adjusted to 2. The product was extracted in ethyl acetate. The ethyl acetate extracts were combined, washed with brine and dried over sodium sulfate. Filtered, evaporated and residue was triturated with hexane. The solid was collected by filtration and dried under vacuum to provide product as light brown solid in 85% yield. ES/MS m/z 236.0 (MH+).

reactant | methyl-2-(acetylacetamido)-3-methoxy-6-(trifluoromethyl)benzoate | COC(C1=C(C(=CC=C1C(F)(F)F)OC)NC(CC(C)=O)=O)=O | C14H14F3NO5
solvent | NaOH | 2N | [OH-].[Na+]
product | 2-amino-3-methoxy-6-(trifluoromethyl)benzoic acid | 85% yield | NC1=C(C(=O)O)C(=CC=C1OC)C(F)(F)F | C9H8F3NO3
